US06759554B2
Preparation of 1-Phenylindole Using Various Copper Sources
To a flame-dried resealable test tube was added the copper source (0.050 mmol), indole (0.117 g, 1.00 mmol) and K3PO4 (0.446 g, 2.1 mmol) under an atmosphere of argon. A rubber septum was fitted and dodecane (45 μL, 0.20 mmol), iodobenzene (134 μL, 1.20 mmol), trans-N,N′-dimethyl-1,2-cyclohexanediamine (16 μL, 0.10 mmol) and toluene (1 mL) were added successively under a stream of argon. The reaction tube was sealed and the contents were stirred with heating via an oil bath at 110° C. for 24 hours. The reaction mixture was cooled to ambient temperature, diluted with 2-3 mL ethyl acetate, and filtered through a plug of silica gel eluting with 10-20 mL of ethyl acetate. The GC yields of the desired product are tabulated below.

reactant | indole | 1.00 mmol, 0.117 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | K3PO4 | 2.1 mmol, 0.446 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | dodecane | 0.20 mmol, 45 μL | CCCCCCCCCCCC | C12H26
reactant | iodobenzene | 1.20 mmol, 134 μL | IC1=CC=CC=C1 | C6H5I
reactant | trans-N,N′-dimethyl-1,2-cyclohexanediamine | 0.10 mmol, 16 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | ethyl acetate | 2-3 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper | [Cu] | Cu
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Phenylindole | C1(=CC=CC=C1)N1C=CC2=CC=CC=C12 | C14H11N
